US04474754
1. Preparation of Z-Lys(Tos)-Glu(OBzl)-OBzl
4.18 Grams of H-Glu(OBzl)-OBzl.Tos was dissolved in 30 ml of dimethylformamide (DMF), then 1.21 ml of triethylamine (TEA) was added and the mixture was stirred under cooling. On the other hand, 4.35 g of Z-Lys(Tos)-OH was dissolved in 30 ml of tetrahydrofuran (THF), and 0.98 ml of N-methylmorpholine was added thereto, then this mixture was cooled to -15° C. and under stirring condition 1.27 ml of isobutyl chloroformate was added dropwise. 30 Seconds after the addition, then the cooled DMF solution mentioned above was added thereto and this mixture was stirred at 0° C. for 5 minutes, then at 40° C. in a water bath for 1 minute, further at 15° C. for 30 minutes. THF and DMF were removed from the reaction mixture under a reduced pressure, the residue thus obtained was extracted with ethyl acetate. The extract was washed with 1N-citric acid, a saturated aqueous solution of sodium chloride, a saturated aqueous solution of sodium hydrogencarbonate then a saturated aqueous solution of sodium chloride in this order, then was dried with anhydrous sodium sulfate, and ethyl acetate was removed distillation. The oily residue obtained was solidified by adding ethyl ether and reprecipitated from ethyl acetate-ether to obtain 5.37 g of the desired product.

reactant | H-Glu(OBzl)-OBzl | N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1 | C19H21NO4
reactant | Z-Lys(Tos)-OH | 4.35 g | N([C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H26N2O6S
reactant | N-methylmorpholine | 0.98 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.27 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | 1.21 ml | C(C)N(CC)CC | C6H15N
product | Z-Lys(Tos)-Glu(OBzl)-OBzl | 5.37 g | N([C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C40H45N3O9S
